US07405219B2
3-(4-Hydroxylamino-2-pyridylmethyl)-7-(5-methyl-2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (Example 87)
A solution of 7-(5-methyl-2-furyl)-3-(4-nitro-2-pyridylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (60 mg, 0.17 mmol) in EtOH (40 mL), MeOH (20 mL) and water (15 mL) was treated with ammonium chloride (280 mg, 5.23 mmol) and zinc (138 mg, 2.05 mmol), stirred for 1 h, filtered through Celite, concentrated in vacuo to −20 mL, diluted with brine (20 mL), extracted with EtOAc (3×20 mL) and the combined organic phase dried (MgSO4) and concentrated in vacuo to give the title compound (40 mg, 73%) as a yellow solid.

reactant | 7-(5-methyl-2-furyl)-3-(4-nitro-2-pyridylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 0.17 mmol, 60 mg | CC1=CC=C(O1)C=1C2=C(N=C(N1)N)N(N=N2)CC2=NC=CC(=C2)[N+](=O)[O-] | C15H12N8O3
reactant | ammonium chloride | 5.23 mmol, 280 mg | [Cl-].[NH4+]
solvent | EtOH | 40 mL | CCO | C2H6O
solvent | MeOH | 20 mL | CO | CH4O
solvent | water | 15 mL | O | H2O
catalyst | zinc | 2.05 mmol, 138 mg | [Zn] | Zn
product | 3-(4-Hydroxylamino-2-pyridylmethyl)-7-(5-methyl-2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 40 mg, 73% | ONC1=CC(=NC=C1)CN1N=NC2=C1N=C(N=C2C=2OC(=CC2)C)N | C15H14N8O2
